US04377694
360 g of hydrazodicarbonamide, 807 g of stearyl amine and 1 ml of tin(II)dioctoate are stirred in 1 liter of N-methyl pyrrolidone for 4 hours at 175° C. and for 6 hours at 200° C. A deposit precipitates on cooling and is isolated by filtration under suction and washed with water, giving 955 g (90% of the theoretical) of 4-stearyl-1,2,4-triazolidine-3,5-dione in the form of colourless crystals melting at 118° to 120° C.

reactant | hydrazodicarbonamide | 360 g | C(=O)(N)NNC(=O)N | C2H6N4O2
reactant | stearyl amine | 807 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | N-methyl pyrrolidone | 1 liter | CN1C(CCC1)=O | C5H9NO
product | 4-stearyl-1,2,4-triazolidine-3,5-dione | C(CCCCCCCCCCCCCCCCC)N1C(NNC1=O)=O | C20H39N3O2
